US08227601B2
4-(7-bromo-4-(mesitylthio)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile
To a solution of 4-(4-(mesitylthio)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile (22.7 mg, 0.06 mmol) in CH2Cl2 (10 mL) was added NBS (10.5 mg, 0.06 mmol) and the resultant mixture was refluxed for 16 h. After completion of the reaction, the solvent was concentrated and purified by reversed phase HPLC to give the product as a white solid (6.4 mg, 23%).

reactant | 4-(4-(mesitylthio)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile | 0.06 mmol, 22.7 mg | C1(=C(C(=CC(=C1)C)C)SC=1C2=C(N=C(N1)NC1=CC=C(C#N)C=C1)C=CN2)C | C22H19N5S
reactant | NBS | 0.06 mmol, 10.5 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(7-bromo-4-(mesitylthio)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile | 6.4 mg, 23% | BrC1=CNC2=C1N=C(N=C2SC2=C(C=C(C=C2C)C)C)NC2=CC=C(C#N)C=C2 | C22H18BrN5S
